US04113729
(-)-3-Phenoxy-N-cyclobutylmethylmorphinan
The above base, 1.1 g. (0.003 mol), on treatment with hydrogen chloride (anhydrous) in ethyl acetate, afforded the crude hydrochloride which after crystallization from ethyl acetate gave 1.2 g. (100%) of pure (-)-3-phenoxy-N-cyclobutylmethylmorphinan hydrochloride, m.p. 175°-177°, [α]D25 = -66.59° (c 1.03, MeOH).

reactant | (-)-3-phenoxy-N-cyclobutylmethylmorphinan hydrochloride | Cl.O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CC3CCC3
solvent | MeOH | CO | CH4O
product | (-)-3-Phenoxy-N-cyclobutylmethylmorphinan | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CC3CCC3 | C27H33NO
